US07220744B2
c) Rac-(4,4,4-Trifluoro-2-iodo-butane-2-sulfonyl)-benzene
To a solution of 28.5 mmol diisopropylamine in 18 ml tetrahydrofuran at −78° C. was added dropwise 28.5 mmol n-butyllithium solution (1.6 M in hexane) and the mixture was then warmed to room temperature. The resulting solution was then added dropwise over 50 min to a solution of 19.0 mmol rac-(4,4,4-trifluoro-butane-2-sulfonyl)-benzene in 30 ml tetrahydrofuran at −78° C. and stirring continued for a further 15 min at −78° C. Finally, a solution of 20.9 mol iodine in 15 ml tetrahydrofuran was added dropwise over 15 min and stirring continued for a further 15 min at −78° C. and then the reaction mixture was allowed to warm to −20° C. The reaction mixture was quenched by addition of 1 M hydrochloric acid and the mixture was extracted three times with ethyl acetate. The combined organic phases were washed sequentially with aqueous sodium thiosulfite solution and with brine and then dried over sodium sulphate and concentrated in vacuo to afford the title compound as a yellow oil (yield 87%). EI-MS (m/e): 377.9 (M+, 4%), 237.0 ([M−PhSO2]+, 40%), 142.0 (PhSO2H+, 100%), 125.1 (PhSO+, 93%), 78.2 (PhH+, 40%), 77.2 (Ph+, 31%).

reactant | diisopropylamine | 28.5 mmol | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 28.5 mmol, 1.6 M | C(CCC)[Li]
reactant | rac-(4,4,4-trifluoro-butane-2-sulfonyl)-benzene | 19.0 mmol | FC(CC(C)S(=O)(=O)C1=CC=CC=C1)(F)F | C10H11F3O2S
reactant | iodine | 20.9 mol | II | I2
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | Rac-(4,4,4-Trifluoro-2-iodo-butane-2-sulfonyl)-benzene | yield 87% | FC(CC(C)(S(=O)(=O)C1=CC=CC=C1)I)(F)F | C10H10F3IO2S
